US08877782B2
N-Cyclopropylmethyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 12, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (155 mg, 0.50 mmol) was converted using aminomethylcyclopropane instead of 2,2,2-trifiuoroethylamine to the title compound (SiO2, heptane:ethyl acetate=80:20 to 50:50, 142 mg, 78%) which was obtained as a white foam. MS: m/e=364.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.50 mmol, 155 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | aminomethylcyclopropane | NCC1CC1 | C4H9N
product | N-Cyclopropylmethyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 142 mg, 78% | C1(CC1)CNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C21H21N3O3
